US08486946B2
Step 3: Preparation of (±)-6-Chloro-2-(trans-2-hydroxycyclohexyl)-5[(6′-methyl-2,3′-bipyridin-5-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one
Ethyl 8-chloro-1-[(6′-methyl-2,3′-bipyridin-5-yl)methyl]-4-thioxo-1,4-dihydrocinnoline-3-carboxylate (26 mg, 0.0058 mmol), (±)-2-hydrazinylcyclohexanol (19 mg, 0.14 mmol, 2.5 equiv) and potassium carbonate (24 mg, 0.17 mmol, 3 equiv) were combined in dimethoxyethane (1 mL) and placed into an oil bath preheated to 90° C. for 90 minutes. The mixture was cooled to ambient temperature, diluted with ethyl acetate and washed once with water and brine. The organic layer was dried sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 90:10; chloroform:methanol), providing the titled compound as a deep red solid: 1H-NMR (400 MHz, CDCl3) δ 9.02 (1H, br s), 8.56 (1H, s), 8.21 (1H, d, J=9.1 Hz), 8.16 (1H, d, J=10.9 Hz), 7.65 (2H, d, J=7.5 Hz), 7.56 (1H, d, J=9.2 Hz), 7.43 (2H, t, J=7.5 Hz), 7.27-7.21 (1H, m), 6.33 (2H, s), 4.34-4.25 (1H, m), 4.11-4.02 (1H, m), 2.6 (3H, s), 2.26-2.17 (1H, m), 2.07-2.00 (1H, m), 1.92-1.79 (2H, m), 1.68-1.56 (2H, m), 1.52-1.39 (2H, m) ppm; high resolution mass spectrometry (ES+) m/z 501.1812 [(M+H)+; calculated for C27H25ClN6O2: 501.1800].

reactant | Ethyl 8-chloro-1-[(6′-methyl-2,3′-bipyridin-5-yl)methyl]-4-thioxo-1,4-dihydrocinnoline-3-carboxylate | 0.0058 mmol, 26 mg | ClC=1C=CC=C2C(C(=NN(C12)CC=1C=CC(=NC1)C=1C=NC(=CC1)C)C(=O)OCC)=S | C23H19ClN4O2S
reactant | (±)-2-hydrazinylcyclohexanol | 0.14 mmol, 19 mg, 2.5 equiv | N(N)C1C(CCCC1)O | C6H14N2O
reactant | potassium carbonate | 0.17 mmol, 24 mg, 3 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 1 mL | C(OC)COC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-6-Chloro-2-(trans-2-hydroxycyclohexyl)-5[(6′-methyl-2,3′-bipyridin-5-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one | ClC1=CC=CC=2C=3C(=NN(C12)CC=1C=CC(=NC1)C=1C=NC(=CC1)C)C(N(N3)[C@H]3[C@@H](CCCC3)O)=O | C27H25ClN6O2
